US07572809B2
Similar procedure as described in example 10 was used, starting from 4-hydroxy-benzonitrile and (1-chloro-5,6-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give 4-[3-(5-methyl-1H-pyrazol-3-ylamino)-5,6-dimethoxy-isoquinolin-1-yloxy]-benzonitrile. LC-MS m/e 402(MH+).

reactant | 4-hydroxy-benzonitrile | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | (1-chloro-5,6-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=C(C(=CC=C12)OC)OC)NC1=NNC(=C1)C | C15H15ClN4O2
product | 4-[3-(5-methyl-1H-pyrazol-3-ylamino)-5,6-dimethoxy-isoquinolin-1-yloxy]-benzonitrile | CC1=CC(=NN1)NC=1N=C(C2=CC=C(C(=C2C1)OC)OC)OC1=CC=C(C#N)C=C1 | C22H19N5O3
